US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(4-penten-1-yl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0608 g, 0.207 mmol) and 5-bromo-1-pentene (0.045 mL, 0.380 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0806 g, 88.6%). EI-MS m/z 362(M+) Rt (1.88 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.207 mmol, 0.0608 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 5-bromo-1-pentene | 0.380 mmol, 0.045 mL | BrCCCC=C | C5H9Br
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(4-penten-1-yl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0806 g, 88.6% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCC=C)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C25H32NO.BrH/c1-2-3-10-18-26-19-15-24(16-20-26,17-21-26)25(27,22-11-6-4-7-12-22)23-13-8-5-9-14-23;/h2,4-9,11-14,27H,1,3,10,15-21H2;1H/q+1;/p-1
